US07291631B2
3,5-Dimethyl-pyridine-2-carbaldehyde oxime (3.15 g, 21.0 mmol), NH4OH (105 mL), ammonium acetate (3.24 g, 42.0 mmol), zinc dust (8.24 g, 126 mol) and EtOH (35 mL) were combined and warmed to 55° C. The mixture was stirred for 20 h, then cooled to ambient temperature and filtered through a celite pad to remove the zinc. The celite pad was thoroughly washed with methanol. The filtrate was concentrated in vacuo and the resulting aqueous mixture was extracted with CH2Cl2 (8×250 mL). The aqueous layer was basified to pH 14 with 10 N NaOH and extracted further with CH2Cl2/i-PrOH, 95:5 (5×250 mL). The combined organic layers were dried over Na2SO4 and concentrate in vacuo. Purification by flash chromatography on silica gel (CH2Cl2/MeOH/NH4OH, 95:4:1) afforded C-(3,5-dimethyl-pyridin-2-yl)-methylamine as an orange oil. 1H NMR (CDCl3) δ 2.26 (s, 3H), 2.28 (s, 3H), 3.91 (s, 2H), 7.24 (s, 1H), 8.23 (s, 1H).

reactant | 3,5-Dimethyl-pyridine-2-carbaldehyde oxime | 21.0 mmol, 3.15 g | CC=1C(=NC=C(C1)C)C=NO | C8H10N2O
reactant | NH4OH | 105 mL | [NH4+].[OH-]
reactant | ammonium acetate | 42.0 mmol, 3.24 g | C(C)(=O)[O-].[NH4+]
catalyst | zinc | 126 mol, 8.24 g | [Zn] | Zn
solvent | EtOH | 35 mL | CCO | C2H6O
product | C-(3,5-dimethyl-pyridin-2-yl)-methylamine | CC=1C(=NC=C(C1)C)CN | C8H12N2
